US04837235
A solution of 6-nitroindole (4.0 g) and methyl 4-bromomethyl-3-methoxybenzoate (6.71 g) in dry acetone (125 ml) was treated with anhydrous potassium carbonate (4.0 g). The mixture was heated under reflux for 48 hours. The cloudy mixture was evaporated. The residue was suspended in ethyl acetate, and solid removed by filtration. The filtrate was evaporated and the residual oil was purified by flash chromatography on a 6×30 cm column of silica gel using 1:1 (v/v) methylene chloride:hexane as the eluent to give methyl 3-methoxy-4-(6-nitroindol-1-ylmethyl)benzoate as a bright yellow powder (8.0 g); NMR: 3.9(s, 3H, OCH3), 4.0(s, 3H, OCH3), 5.4(s, 2H, NCH2), 6.7(dd, 1H, H3 -indole), 6.8(d, 1H), 7.4(d, 1H, H2 -indole), 7.5-7.7(m, 3H), 8.0(dd, 1H, H5 -indole), 8.3(br s, 1H, H 7 -indole). A solution of a portion of the above nitroester (1.38 g) in ethyl acetate (15 ml), which contained 2 drops of 1:4 (v/v) acetic acid:ethyl acetate, was added to a suspension of pre-reduced 10% w/w palladium-on-charcoal (0.34 g) in ethyl acetate (5 ml). The mixture was shaken under 3.45 bar hydrogen for 24 hours and then filtered through diatomaceous earth. The residue was washed with hot chloroform and the combined filtrate and washings were evaporated to give methyl 4-(6-aminoindol-1-ylmethyl)-3-methoxybenzoate (B) (1.19 g) as a brown powder; NMR: 3.6(br, 2H, NH2), 3.9(s, 3H, OCH3), 4.0(s, 3H, OCH3), 5.3(s, 2H, NCH2), 6.4(d, 1H, H3 -indole), 6.5(s, 1H, H7 -indole), 6.6(m, 2H), 6.9(d, 2H, H2 -indole), 7.5(m, 3H).

reactant | 6-nitroindole | 4.0 g | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | methyl 4-bromomethyl-3-methoxybenzoate | 6.71 g | BrCC1=C(C=C(C(=O)OC)C=C1)OC | C10H11BrO3
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 125 ml | CC(=O)C | C3H6O
product | methyl 3-methoxy-4-(6-nitroindol-1-ylmethyl)benzoate | 8.0 g | COC=1C=C(C(=O)OC)C=CC1CN1C=CC2=CC=C(C=C12)[N+](=O)[O-] | C18H16N2O5
